### PR TITLE
feat(ModularForms/Derivative): add D_qexp_tsum termwise q-series differentiation

### PR DESCRIPTION
**Pull request by cameronfreer**
## Summary

Add infrastructure for termwise q-expansion differentiation (Blueprint Lemma 6.45):

* **`D_qexp_term`**: `D(a·qⁿ) = n·a·qⁿ` for single q-powers (with integer exponents)
* **`D_qexp_tsum`**: Termwise differentiation for ℕ-indexed q-series
* **`D_qexp_tsum_pnat`**: Variant for ℕ⁺-indexed series

All lemmas are **sorry-free**.

## Addresses Issue #90 (Partial)

This provides the q-expansion differentiation infrastructure needed to prove Ramanujan's identities via q-expansion comparison. With this infrastructure:
* `D(E₄)` can be computed termwise from its q-expansion
* Coefficient comparison can verify `∂₄E₄ = -⅓E₆` etc.

## Dependencies

~~**Merge first:** #249 (`deriv_resToImagAxis_eq`)~~

## Downstream Uses

* **#248**: Uses for `D_E4_qexp` and Ramanujan identity proofs
* **#239**: Uses for asymptotic limit computations (D_diff_div_q_tendsto, etc.)

## Test Plan

* [x] `lake build SpherePacking.ModularForms.Derivative` passes
* [x] All lemmas complete (no sorries)

---

🤖 Generated with [Claude Code](https://claude.com/claude-code)

### CODE REVIEW

File: SpherePacking/ModularForms/Derivative.lean [hunk 1]
```diff
@@ -170,6 +170,195 @@ theorem D_const (c : ℂ) (z : ℍ) : D (Function.const _ c) z = 0 := by
...
+
+/-- Helper: derivWithin for qexp term on upper half-plane. -/
+private lemma derivWithin_qexp (a c : ℂ) (w : ℂ) (hw : 0 < w.im) :
+    derivWithin (fun z => a * cexp (2 * π * I * c * z))
+      {z : ℂ | 0 < z.im} w = a * (2 * π * I * c) * cexp (2 * π * I * c * w) :=
+  ((hasDerivAt_qexp a c w).hasDerivWithinAt).derivWithin
+    (isOpen_upperHalfPlaneSet.uniqueDiffWithinAt hw)
+
+/--
+**Lemma 6.45 (Blueprint)**: The Serre derivative D acts as q·d/dq on q-series.
```
Comment (seewoo5) [inline SpherePacking/ModularForms/Derivative.lean]:
```suggestion
**Lemma 6.45 (Blueprint)**: The normalized derivative $D$ acts as $q \frac{d}{dq}$ on $q$-series.
```

File: SpherePacking/ModularForms/Derivative.lean [hunk 2]
```diff
@@ -170,6 +170,195 @@ theorem D_const (c : ℂ) (z : ℍ) : D (Function.const _ c) z = 0 := by
...
+For a single q-power term: D(a·qⁿ) = n·a·qⁿ where q = exp(2πiz).
+
+The key calculation:
+- d/dz(exp(2πinz)) = 2πin·exp(2πinz)
+- D(exp(2πinz)) = (2πi)⁻¹·(2πin·exp(2πinz)) = n·exp(2πinz)
+-/
+theorem D_qexp_term (n : ℕ) (a : ℂ) (z : ℍ) :
```
Comment (seewoo5) [inline SpherePacking/ModularForms/Derivative.lean]: Why do we need both of `D_qexp_term` and `D_qexp_term_int`? Isn't latter enough?

File: SpherePacking/ModularForms/Derivative.lean [hunk 3]
```diff
@@ -170,6 +170,195 @@ theorem D_const (c : ℂ) (z : ℍ) : D (Function.const _ c) z = 0 := by
...
+      {w : ℂ | 0 < w.im} z = a n * (2 * π * I * n) * cexp (2 * π * I * n * z) :=
+    fun n => derivWithin_qexp _ _ _ z.2
+  simp_rw [h_deriv_simp, ← tsum_mul_left]
+  congr 1; funext n; field_simp [two_pi_I_ne_zero]
+
+/--
+Simplified version of `D_qexp_tsum` for ℕ+-indexed series (starting from n=1).
+This is the form most commonly used for Eisenstein series q-expansions.
+-/
+theorem D_qexp_tsum_pnat (a : ℕ+ → ℂ) (z : ℍ)
```
Comment (seewoo5) [inline SpherePacking/ModularForms/Derivative.lean]: Also, for me it seems only `D_qexp_tsum` is needed and not `D_qexp_tsum_pnat`.

File: SpherePacking/ModularForms/Derivative.lean (hunk 2 above)
Comment (cameronfreer) [reply SpherePacking/ModularForms/Derivative.lean]: Thanks for catching this -- I agree that the latter, more general, one is sufficient (now renamed to `D_qexp_term`); see 12ff4d27e25d05a38831a14127d8ddb8879ebf59

File: SpherePacking/ModularForms/Derivative.lean [hunk 4]
```diff
@@ -170,6 +170,155 @@ theorem D_const (c : ℂ) (z : ℍ) : D (Function.const _ c) z = 0 := by
...
+
+/--
+Simplified version of `D_qexp_tsum` for ℕ+-indexed series (starting from n=1).
+This is the form most commonly used for Eisenstein series q-expansions.
+
+**Thin layer implementation:** Extends `a : ℕ+ → ℂ` to `ℕ → ℂ` with `a' 0 = 0`,
+uses `tsum_pNat` and `nat_pos_tsum2` to convert between sums,
+then applies `D_qexp_tsum`.
+-/
+theorem D_qexp_tsum_pnat (a : ℕ+ → ℂ) (z : ℍ)
```
Comment (seewoo5) [inline SpherePacking/ModularForms/Derivative.lean:291]: Why this one added back?

File: SpherePacking/ModularForms/Derivative.lean (hunk 3 above)
Comment (cameronfreer) [reply SpherePacking/ModularForms/Derivative.lean]: I agree that we don't need two very similar proofs, but I wasn't able to easily use just the former (see below for details). I've now reproved `D_qexp_tsum_pnat` using `D_qexp_tsum` (see [here](https://github.com/thefundamentaltheor3m/Sphere-Packing-Lean/pull/252/changes#diff-fa76eaf4ad9c7f5eb2421f3d1ddf7bd53d53f1b869b66397c3c42e00658f0ba6R291)) but it's still more complicated than I'd like (though maybe you see an easier way). I suppose another alternative would be to include only the `pnat` version?

----

Details on the 3 uses of `D_qexp_tsum_pnat` in #248, for q-expansion differentiation of Eisenstein series (E₂, E₄, E₂E₄-E₆) -- of the form c + ∑_{n≥1} a(n) q^n, making ℕ⁺ indexing natural.

  Usage 1: `D_E₄_eq_tsum` in `Derivative.lean` (~line 732)

```lean
lemma D_E₄_eq_tsum (z : ℍ) :
    D E₄.toFun z = 240 * ∑' (n : ℕ+), ↑n * ↑(σ 3 n) * cexp (2 * π * I * ↑n * z)
```

  This proves the derivative of E₄ using the q-expansion E₄ = 1 + 240 * ∑_{n≥1} σ₃(n) q^n. The sum naturally starts at n=1 because σ₃(0) = 0 and the constant term 1 is handled separately.

  Usage 2: `D_E₂_qexp` in `Monotonicity_L10_SerreAndF.lean` (~line 316)

```lean
theorem D_E₂_qexp (z : ℍ) :
    D E₂ z = -24 * ∑' n : ℕ+, ↑n * ↑(σ 1 n) * cexp (2 * π * I * ↑n * z)
```

  Same pattern - E₂ = 1 - 24 * ∑_{n≥1} σ₁(n) q^n.

  Usage 3: `D_diff_qexp` in `Monotonicity_L10_SerreAndF.lean` (~line 929)

```lean
theorem D_diff_qexp (z : ℍ) :
    D (fun w => E₂ w * E₄ w - E₆ w) z =
      720 * ∑' n : ℕ+, (↑n)² * ↑(σ 3 n) * cexp (2 * π * I * ↑n * z)
```

  This is for E₂E₄ - E₆ = 720 * ∑_{n≥1} n·σ₃(n) q^n (from Ramanujan identity).

File: SpherePacking/ModularForms/Derivative.lean (hunk 4 above)
Comment (cameronfreer) [reply SpherePacking/ModularForms/Derivative.lean:291]: See above https://github.com/thefundamentaltheor3m/Sphere-Packing-Lean/pull/252#discussion_r2656794295
though I'm happy to try another approach.

File: SpherePacking/ModularForms/Derivative.lean (hunk 3 above)
Comment (seewoo5) [reply SpherePacking/ModularForms/Derivative.lean]: So is it because the q-expansion of Eisenstein series is given in a form of $1 + \sum_{n \in \mathbb{N}^+} a_n q^n$?  Then it makes sense to me; probably there might be a better way, but I cannot tell this until I read other parts of the proofs of Ramanujan identities.

**Review by seewoo5 — APPROVED** [review]
